US04877799
(-)-trans-1-butyl-4-(4-fluorophenyl)-3-(4-methoxyphenoxymethyl)-piperidine hydrochloride M.p. 163°-165° C. was prepared exactly as described in Example 1 from (-)-trans-4-(4-fluorophenyl)-3-(4-methoxyphenoxymethyl)-piperidine hydrochloride and butyl bromide by refluxing for 120 hours.

reactant | (-)-trans-4-(4-fluorophenyl)-3-(4-methoxyphenoxymethyl)-piperidine hydrochloride | Cl.FC1=CC=C(C=C1)[C@H]1[C@@H](CNCC1)COC1=CC=C(C=C1)OC
reactant | butyl bromide | C(CCC)Br | C4H9Br
product | (-)-trans-1-butyl-4-(4-fluorophenyl)-3-(4-methoxyphenoxymethyl)-piperidine hydrochloride | Cl.C(CCC)N1C[C@H]([C@@H](CC1)C1=CC=C(C=C1)F)COC1=CC=C(C=C1)OC | InChI=1S/C23H30FNO2.ClH/c1-3-4-14-25-15-13-23(18-5-7-20(24)8-6-18)19(16-25)17-27-22-11-9-21(26-2)10-12-22;/h5-12,19,23H,3-4,13-17H2,1-2H3;1H/t19-,23-;/m0./s1
